US04112234
N-Cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-(2-butyn-1-yl)guanidine
A mixture of N-cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-S-methylisothiourea (3.00 g. 0.0111 mole) and 2-butyne-1-amine (3.07 g., 0.0445 mole) in 60 ml. of propionitrile was stirred at reflux for 40 hours. TLC assay of an aliquot of the reaction mixture showed a trace of the isothiourea starting material, so the mixture was refluxed for an additional 6 hours and then stirred at room temperature for 64 hours. The solvent (along with excess amine) was removed at reduced pressure and the residual gum was placed on silica gel (100-200 mesh) and eluted with a mixture of methylene chloride (97 parts) and methanol (3 parts). The middle fractions were combined and evaporated to give 1.81 g. of yellow gum. The gum was dissolved in 20 ml. of ethyl acetate and crystallized at -15° C. The resulting pale yellow solid (1.2 g.) was dissolved in 11 ml. of hot acetonitrile and recrystallized at -15° C; yield 1.072 g., m.p. 128°-130° C.

reactant | N-cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-S-methylisothiourea | 0.0111 mole, 3.00 g | C(#N)NC(SC)=NCCSCC1=C(N=CN1)C | C10H15N5S2
reactant | 2-butyne-1-amine | 0.0445 mole, 3.07 g | C(C#CC)N | C4H7N
reactant | propionitrile | C(CC)#N | C3H5N
reactant | isothiourea | NC(S)=N | CH4N2S
product | N-Cyano-N'-{2-[(4-methyl-5-imidazolyl)methylthio]ethyl}-N"-(2-butyn-1-yl)guanidine | C(#N)NC(=NCC#CC)NCCSCC1=C(N=CN1)C | C13H18N6S
